US07094801B2
2-{5-Methoxy-2-[3-oxo-3-(4-aminosulfonyl-phenyl)-E-propenyl]-4-thiophen-2-yl-phenoxy}-2-methyl-propionic acid
The title compound was prepared by condensing 4-acetyl-benzenesulfonamide (Ex-26A) and 2-(2-formyl-5-methoxy-4-thiophen-2-yl-phenoxy)-2-methyl-propionic acid (Ex-59B) in a similar manner as described in Ex-22. Yellow solid, mp 164–165° C., 85% yield. 1H-NMR (300 MHz, DMSO-d6) δ 8.21–8.28 (m, 3H), 7.96–8.12 (m, 4H), 7.67 (d, 1H, J=3.0 Hz), 7.56 (brs, 3.0H), 7.14 (dd, 1H, J=5.7, 3.0 Hz), 6.57 (s, 1H), 3.88 (s, 3H), 1.66 (s, 6H). MS (ESI) m/z=502 ([M+H]+, 100%). Anal. Calcd. for C24H23NO7S2: C, 57.47; H, 4.62; N, 2.79; S, 12.79. Found: C, 57.70; H, 4.74; N, 2.85; S, 12.51.

reactant | 4-acetyl-benzenesulfonamide | C(C)(=O)C1=CC=C(C=C1)S(=O)(=O)N | C8H9NO3S
reactant | 2-(2-formyl-5-methoxy-4-thiophen-2-yl-phenoxy)-2-methyl-propionic acid | C(=O)C1=C(OC(C(=O)O)(C)C)C=C(C(=C1)C=1SC=CC1)OC | C16H16O5S
product | 2-{5-Methoxy-2-[3-oxo-3-(4-aminosulfonyl-phenyl)-E-propenyl]-4-thiophen-2-yl-phenoxy}-2-methyl-propionic acid | 85% yield | COC=1C(=CC(=C(OC(C(=O)O)(C)C)C1)\C=C\C(C1=CC=C(C=C1)S(=O)(=O)N)=O)C=1SC=CC1 | C24H23NO7S2
